US07115609B2
1-[N-(Indole-6-carbonyl)-D-glutamyl]-4-(1-methylpiperidin-4-yl)piperazine
Using methods substantially equivalent to those described in Method D-1, the titled compound was prepared from 1-(D-glutamyl)-4-(1-methylpiperidin-4-yl)piperazine trihydrochloride and indole-6-carboxylic acid (46%).

reactant | 1-(D-glutamyl)-4-(1-methylpiperidin-4-yl)piperazine trihydrochloride | Cl.Cl.Cl.N[C@H](CCC(O)=O)C(=O)N1CCN(CC1)C1CCN(CC1)C
reactant | indole-6-carboxylic acid | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
product | 1-[N-(Indole-6-carbonyl)-D-glutamyl]-4-(1-methylpiperidin-4-yl)piperazine | N1C=CC2=CC=C(C=C12)C(=O)N[C@H](CCC(O)=O)C(=O)N1CCN(CC1)C1CCN(CC1)C | C24H33N5O4
